2124-04-20 08:03:00 Physician Resident Progress Note
Chief Complaint: Aspiration PNA, thalamic bleed
   24 Hour Events:
   [**2124-4-19**]
   He was continued on vanc/levo/flagyl for aspiration pneumonia as well
   as po vanco for recurrant cdiff.
   He continued to require oxygen by 70% face tent with desaturations to
   the mid/high 80's when he removed his face mask.
   Mental status improved to baseline according to his family.
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2124-4-19**] 03:45 PM
   Metronidazole - [**2124-4-20**] 01:05 AM
   Levofloxacin - [**2124-4-20**] 02:15 AM
   Vancomycin - [**2124-4-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2124-4-19**] 09:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-4-20**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 111 (89 - 111) bpm
   BP: 144/74(91) {93/38(52) - 144/74(91)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,578 mL
                                                                    885 mL
   PO:
             TF:
   IVF:
                                                                  3,543 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    362 mL
   Urine:
                                                                    950 mL
                                                                    362 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,628 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   8.2 g/dL
   89 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.6 mEq/L
   9 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2124-4-19**]  05:30 AM
                             [**2124-4-20**]  02:27 AM
   WBC
   8.5
   6.0
   Hct
   25.8
   24.8
   Plt
   282
   238
   Cr
   0.4
   0.4
   Glucose
   101
   89
   Other labs: Differential-Neuts:92.9 %, Lymph:4.7 %, Mono:2.0 %, Eos:0.3
   %, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR- blossomed aspiration, r>l
   Microbiology: ngtd
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 INTRACEREBRAL HEMORRHAGE (ICH)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O PNEUMONIA, ASPIRATION
   A/P: Mr. [**Known lastname 5160**] is a 75 M with recent right thalamic bleed admitted
   with hypoxia and altered mental status likely [**2-21**] aspiration pneumonia,
   no evidence of new thalamic bleeding.
   .
   #Aspiration pneumonia- He had witnessed aspiration event immediately
   preceeding his hypoxia and AMS now with significant RLL infiltrate on
   repeat CXR.  O2 weanted to 50% face tent this morning (from 70%)
   -albuterol prn
   - vancomycin, levaquin for HAP as lives in facility
   -d/c flagyl
   .
   # Right thalamic bleed- likely [**2-21**] HTN and elevated INR, no current
   evidence that new bleed or worsening of his prior bleed, mental status
   is back to baseline.
   - obtain old CT from [**4-4**], holding off on further imaging for now
   - monitor neuro status
   - appreciate neuron reccs
   - hold DVT prophylaxis, asa for now, if stable can likely restart; no
   plans to resume treatment dose anticoagulation as was supposed to stop
   treatment dose within one month and too high risk given significant
   bleed
   .
   # Right fractured clavicle
   - place sling
   - standing Tylenol
   -morphine prn
   .
   # C.diff colitis
   - PO vanco, chronic long taper
   .
   # h/o DVT- hold AC for now given acuity of bleed.
   .
   # Hyponatremia- resolved with saline
   .
   # CAD- restart BB, hold ASA and lovenox for now
   .
   # HTN- restart BB today, hold others
   .
   # FEN: IVF, replete electrolytes, nutrition to restart  tube feeds low
   rate today
   .
   # Prophylaxis: pneumoboots
   .
   # Access: peripherals
   .
   # Code: DNR/DNI, had long discussion with family and they would not
   want CVL, a-line, they would like to be informed of deterioration and
   then would decide to make [**Last Name (un) **] comfortable
   .
   # Communication: Patient
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-4-19**] 04:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2124-04-21 07:54:00 Physician Resident Progress Note
Chief Complaint: aspiration pna, thalamic bleed
   24 Hour Events:
   [**2124-4-20**]:
   CT scan from OSH compared, intervally improved here.
   CT scan head stable, per neuro, restarted ASA and added heparin SQ
   D/C'd flagyl, restarted BB
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2124-4-19**] 03:45 PM
   Metronidazole - [**2124-4-20**] 09:00 AM
   Levofloxacin - [**2124-4-21**] 02:11 AM
   Vancomycin - [**2124-4-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-4-20**] 10:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-4-21**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 84 (68 - 108) bpm
   BP: 114/49(84) {94/41(54) - 151/74(93)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,928 mL
                                                                    880 mL
   PO:
             TF:
                                                                    158 mL
                                                                    282 mL
   IVF:
                                                                  1,140 mL
                                                                    478 mL
   Blood products:
   Total out:
                                                                  1,222 mL
                                                                    325 mL
   Urine:
                                                                  1,222 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    706 mL
                                                                    555 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: r>l)
   Abdominal: Soft, Non-tender, peg in place
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x1 at b/l, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   298 K/uL
   8.0 g/dL
   137 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.4 mEq/L
   9 mg/dL
   101 mEq/L
   133 mEq/L
   23.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2124-4-19**]  05:30 AM
                             [**2124-4-20**]  02:27 AM
                             [**2124-4-21**]  03:22 AM
   WBC
   8.5
   6.0
   6.2
   Hct
   25.8
   24.8
   23.4
   Plt
   282
   238
   298
   Cr
   0.4
   0.4
   0.4
   Glucose
   101
   89
   137
   Other labs: Differential-Neuts:92.9 %, Lymph:4.7 %, Mono:2.0 %, Eos:0.3
   %, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Imaging: CTH yest- stable
   Microbiology: ngtd
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 INTRACEREBRAL HEMORRHAGE (ICH)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O PNEUMONIA, ASPIRATION
   A/P: Mr. [**Known lastname 5160**] is a 75 M with recent right thalamic bleed admitted
   with hypoxia and altered mental status likely [**2-21**] aspiration pneumonia,
   no evidence of new thalamic bleeding.
   .
   #Aspiration pneumonia- He had witnessed aspiration event immediately
   preceeding his hypoxia and AMS now with significant RLL infiltrate on
   repeat CXR.  O2 weanted to 50% face tent this morning (from 70%)
   -albuterol prn
   - vancomycin, levaquin for HAP as lives in facility, will add Zosyn
   today given lag in improvement
   - pulm toilet, requiring frequent monitoring
   - obtain sputum sample today
   .
   # Right thalamic bleed- likely [**2-21**] HTN and elevated INR, no current
   evidence that new bleed or worsening of his prior bleed, mental status
   is back to baseline.
   - old CTH being reviewed, 2 CT scanc here are stable, restarted ASA and
   heparin SQ yesterday
   - monitor neuro status
   - appreciate neuro reccs
   -  no plans to resume treatment dose anticoagulation as was supposed to
   stop treatment dose within one month and too high risk given
   significant bleed
   .
   # Right fractured clavicle
   - place sling
   - standing Tylenol
   - morphine prn
   .
   # C.diff colitis
   - PO vanco, chronic long taper
   .
   # h/o DVT- on PPX, no plans to resume treatment dosing
   .
   # Hyponatremia- resolved with saline
   .
   # CAD- lopressor, ASA, will add back ACEi  tomorrow
   .
   # HTN- continue lopressor,  add back other anti-htn agents tomorrow
   .
   # FEN: IVF, replete electrolytes, nutrition to restart  tube feeds low
   rate today
   .
   # Prophylaxis: pneumoboots
   .
   # Access: peripherals
   .
   # Code: DNR/DNI, had long discussion with family and they would not
   want CVL, a-line, they would like to be informed of deterioration and
   then would decide to make [**Last Name (un) **] comfortable
   .
   # Communication: [**Name (NI) **] sons, one is HCP
   .
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2124-4-20**] 05:07 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-4-19**] 04:45 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2124-04-22 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   sputum cx sent
   added zosyn for better GNR coverage HAP
   pulm toilet
   Allergies:
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2124-4-19**] 03:45 PM
   Metronidazole - [**2124-4-20**] 09:00 AM
   Vancomycin - [**2124-4-22**] 03:59 AM
   Levofloxacin - [**2124-4-22**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-4-22**] 06:08 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2124-4-22**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-4-22**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.6
C (96.1
   HR: 75 (67 - 98) bpm
   BP: 111/93(86) {111/48(64) - 142/93(97)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,068 mL
                                                                  1,080 mL
   PO:
             TF:
                                                                  1,168 mL
                                                                    445 mL
   IVF:
                                                                  1,090 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    640 mL
   Urine:
                                                                    925 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,143 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Gen: alert, responding appropriately
   HEENT: NC, AT, left pupil post surgical, right pupil 2mm and reactive
   Neck: supple
   CV: RRR s1s2
   Lungs: decreased breath sounds at bases bilaterally, crackles at right
   base, scattered ronchi
   Abd: soft, NT ND, gtube in place positive bowel sounds
   Ext: warm, no edema, DP
s palpable
   Labs / Radiology
   299 K/uL
   7.9 g/dL
   136 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.6 mEq/L
   8 mg/dL
   102 mEq/L
   135 mEq/L
   24.2 %
   4.3 K/uL
        [image002.jpg]
                             [**2124-4-19**]  05:30 AM
                             [**2124-4-20**]  02:27 AM
                             [**2124-4-21**]  03:22 AM
                             [**2124-4-22**]  04:43 AM
   WBC
   8.5
   6.0
   6.2
   4.3
   Hct
   25.8
   24.8
   23.4
   24.2
   Plt
   282
   238
   298
   299
   Cr
   0.4
   0.4
   0.4
   0.4
   Glucose
   101
   89
   137
   136
   Other labs: Differential-Neuts:92.9 %, Lymph:4.7 %, Mono:2.0 %, Eos:0.3
   %, Ca++:7.9 mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Imaging: [**4-20**] CT Head:
   Compared to prior exam from [**2124-4-18**], there is no significant
   change in hyperdense focus in the right thalamus which may represent a
   hemorrhagic infarct.
   [**4-20**] CXR:
   As compared to the previous radiograph, the pre-existing right
   sided parenchymal opacities have massively increased in extent. They
   now occupy the entire right lung bases. The presence of a combined
   dense lung parenchyma and air bronchograms suggests pneumonia. Mild
   increase in density is also seen at the left lung bases. The presence
   of a small right-sided effusion cannot be excluded, no larger
   left-sided pleural effusion. The size of the cardiac silhouette is
   unchanged. Round linear structure in the left lung base is caused by a
   skin fold.
   Microbiology: [**4-21**] sputum cx: cancelled
   [**4-19**] Blood cx: ngtd
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 IMPAIRED SKIN INTEGRITY
 INTRACEREBRAL HEMORRHAGE (ICH)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O PNEUMONIA, ASPIRATION
   A/P: Mr. [**Known lastname 5160**] is a 75 M with recent right thalamic bleed admitted
   with hypoxia and altered mental status likely [**2-21**] aspiration pneumonia,
   no evidence of new thalamic bleed.
   .
   #Aspiration pneumonia- He had witnessed aspiration event immediately
   preceeding his hypoxia and AMS now with significant RLL infiltrate on
   repeat CXR.  Zosyn was added to his regimen yesterday with significant
   clinical improvement today.  Continue to wean O2 saturation given that
   was able to tolerate d/c oxygen during rounds
   -albuterol prn
   - vancomycin, levaquin/zosyn to complete a ten day course for HAP/ASP
   PNA
   - pulm toilet
   - repeat sputum sample today
   -nebs prn
   -wean O2 to NC
   -head of bed elevation to 30 at all times to prevent recurrant
   aspiration of tube feeds
   .
   # Right thalamic bleed- likely [**2-21**] HTN and elevated INR, no current
   evidence that new bleed or worsening of his prior bleed, mental status
   is back to baseline.   CT Head stable x2 here and c/w outside films.
   -neuro has signed off
   -  DVT prophylaxis and ASA restarted, Ok per neuro
   .
   # Right fractured clavicle
   - place sling
   - standing Tylenol
   - oxycodone prn
   .
   # C.diff colitis: recurrent, has been on long taper with recent
   recurrence of cdiff with positive cdiff toxin (had been neg)
   -          PO vanco at full treatment dose
   -          Will need long taper after abx course completed
   .
   # h/o DVT- on PPX, no plans to resume treatment dosing given recent
   thalamic bleed.  He was due to complete course of treatment in one
   month.
   -heparin sq for DVT prophylaxis
   .
   # CAD- lopressor, ASA
   -restarte ACE (?on 20mg [**Hospital1 **]), will start at half dose of 20mg daily
   .
   # HTN- continue lopressor
   -restart lisinopril at 20mg today (home dose is 20mg [**Hospital1 **])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2124-4-20**] 05:07 PM 40 mL/hour
   Glycemic Control:  has not required insulin coverage
   Lines:
   18 Gauge - [**2124-4-19**] 04:45 AM
   -will place PICC for 10 day course of IV abx
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: son is HCP
   [**Name (NI) 129**] status: : DNR/DNI, had long discussion with family and they would
   not want CVL, a-line, they would like to be informed of deterioration
   and then would decide to make [**Last Name (un) **] comfortable
   Disposition: c/o to floor